US08530593B2
1,1′-(1-Bromoethane-1,2-diyl)dibenzene (4):
To a solution of 12.0 (60.5 mmol) of 1,2-diphenylethanol in 50 mL of dry diethyl ether, 11.0 g (3.80 mL, 40.0 mmol) of PBr3 was added with vigorous stirring at −10° C. The resulting mixture was stirred for 12 hr at room temperature and then added to 350 mL of cold water. The organic layer was separated, and the aqueous layer was extracted with 2×100 mL of water. The combined organic extracts were washed with aqueous NaHCO3, dried over Na2SO4, and evaporated to dryness. This procedure gave 13.2 g (84%) of the title product.

reactant | 1,2-diphenylethanol | C1(=CC=CC=C1)C(CC1=CC=CC=C1)O | C14H14O
reactant | PBr3 | 40.0 mmol, 3.80 mL, 11.0 g | P(Br)(Br)Br | Br3P
reactant | water | 350 mL | O | H2O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 1,1′-(1-Bromoethane-1,2-diyl)dibenzene | 13.2 g, 84% | BrC(CC1=CC=CC=C1)C1=CC=CC=C1 | C14H13Br
